### ISSUE TITLE
Error 'invalid field notations' should be caught by 'try' tactic

### ISSUE THREAD

**Issue by SmileLee-lyx** [leanprover/lean4#1037]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Invalid field notations lead to compilation failure instead of tactic failure, and cannot be caught by try.
For example, in the following code,

```
example (p q r s: Prop) (h1: p -> s) (h2: q -> s) (h3: r -> s)
    : ((p \/ q) -> s) /\ (r -> s) := by {
  constructor <;> intro h <;>
  (try (apply Or.elim h <;> intro h)) <;>
  revert h <;> assumption;
}

example (p q r s: Prop) (h1: p -> s) (h2: q -> s) (h3: r -> s)
    : ((p \/ q) -> s) /\ (r -> s) := by {
  constructor <;> intro h <;>
  (try (apply h.elim <;> intro h)) <;>
  revert h <;> assumption;
}
```

The first example works well, while the second fails.
I expect that the second example should work as well.

### Versions

Lean (version 4.0.0-nightly-2022-02-04, commit 6d07092d1ecd, Release)

Microsoft Windows [版本 10.0.19043.1526]
